US20010020034A1
To a solution of (2,3-difluoro-phenyl)-methanol (5.0 g, 35 mmol), imidazole (4.9 g, 72 mmol) and DMF (40 mL) was added tert-butyldimethylchlorosilane (5.4 g, 36 mmol). After stirring at ambient temperature for 24 hours, the mixture was partitioned between 400 mL of ether and 100 mL of water. The organic layer was washed twice with water, dried over MgSO4, filtered and concentrated in vacuo, affording 6.8 g of tert-butyl-(2,3-difluoro-benzyloxy)-dimethyl-silane as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.22 (m, 1H), 7.04 (m, 2H), 4.79 (s, 2H), 0.91 (s, 9H), 0.12 (s, 6H) ppm.

reactant | (2,3-difluoro-phenyl)-methanol | 35 mmol, 5.0 g | FC1=C(C=CC=C1F)CO | C7H6F2O
reactant | imidazole | 72 mmol, 4.9 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 36 mmol, 5.4 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | tert-butyl-(2,3-difluoro-benzyloxy)-dimethyl-silane | 6.8 g | C(C)(C)(C)[Si](C)(C)OCC1=C(C(=CC=C1)F)F | C13H20F2OSi
